US06939887B2
Synthesis of 5-amino-1-(2-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one
Ethyl 2-chlorophenyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate (68.8 mg) was dissolved in ethanol (6 ml), and to the solution was added sodium hydride (14.7 mg). The reaction mixture was heated at reflux for 2 hours. After allowing to cool, to the reaction mixture was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted 3 times with chloroform. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resultant residue was purified by preparative TLC (2 mm, 20×20 cm, CHCl3:methanol=5:1) to give the title compound (46.2 mg).

reactant | Ethyl 2-chlorophenyl[2,4-diamino-6-(trifluoromethyl)phenyl]carbamate | 68.8 mg | ClC1=C(C=CC=C1)N(C(OCC)=O)C1=C(C=C(C=C1C(F)(F)F)N)N | C16H15ClF3N3O2
reactant | sodium hydride | 14.7 mg | [H-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 5-amino-1-(2-chlorophenyl)-7-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | 46.2 mg | NC1=CC2=C(N(C(N2)=O)C2=C(C=CC=C2)Cl)C(=C1)C(F)(F)F | C14H9ClF3N3O
